US06610708B1
(a) 1-(t-Butoxycarbonyl)-3-ethylidene-4-piperidone
0.77 g (7.6 mmol) of triethylamine were added to a 20 ml methylene chloride solution of 1.86 g (7.6 mmol) of the 1-(t-butoxycarbonyl)-3-(1-hydroxyethyl)-4-piperidone obtained above. Under ice cooling, 0.88 g (7.6 mmol) of methanesulfonyl chloride were added and the resulting mxiture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. Ethyl acetate was added to the residue. The solid thus precipitated was filled out, followed by concentration under reduced pressure again. The concentrate was then dissolved in 20 ml of chloroform, followed by the addition of 1.16 g (7.6 mmol) of 1,8-diazabicyclo[5.4.0]under-7-ene (DBU) at room temperature. The mixture was stirred for 2 hours at the same temperature. After completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column (eluting solvent: toluene/ethyl acetate=19/1), whereby 1.32 g (yield: 77.2%) of the title compound were obtained as a colorless oil.

reactant | triethylamine | 7.6 mmol, 0.77 g | C(C)N(CC)CC | C6H15N
reactant | 1-(t-butoxycarbonyl)-3-(1-hydroxyethyl)-4-piperidone | 7.6 mmol, 1.86 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C(C)O | C12H21NO4
reactant | methanesulfonyl chloride | 7.6 mmol, 0.88 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(t-Butoxycarbonyl)-3-ethylidene-4-piperidone | 1.32 g, yield: 77.2% | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)=CC | C12H19NO3
